US05106407
2-Nitro-4-methyliodosobenzene
2-Nitro-4-methyl(dichloroiodo)benzene (2.0 g, 6.0 mmol) was added portion-wise, over a period of 15 min, to a cold (5° C.), stirred solution of 20 percent aqueous sodium hydroxide (100 mL). Five min after the addition, the desired product, an orange solid, insoluble in the reaction medium, was isolated by filtration; yield, 1.51. g.

reactant | 2-Nitro-4-methyl(dichloroiodo)benzene | 6.0 mmol, 2.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)C)I(Cl)Cl | C7H6Cl2INO2
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
product | 2-Nitro-4-methyliodosobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)C)I=O | C7H6INO3
